US09056859B2
To a solution of methyl 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylate (3.3 g, 13.6 mmol) in 100 mL of MeOH/THF/H2O (2/2/1) was added LiOH.H2O (2.84 g, 67.5 mmol), and the mixture was stirred at ambient temperature overnight. The solvents were removed under vacuum, and the residue was added 50 mL of water and extracted with ether. The aqueous layer was then acidified with 4 N HCl to pH=3 in ice bath, and extracted with EtOAc. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate and concentrated. The residue was re-crystallized from DCM to give 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylic acid. 1H-NMR (300 MHz, DMSO) δ ppm 7.58 (d, J=7.8 Hz, 1H), 7.32-7.50 (m, 2H), 4.71-4.92 (m, 2H), 4.45-4.55 (m, 1H); MS m/z 233 (M+1)+.

reactant | methyl 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylate | 13.6 mmol, 3.3 g | N1(N=NN=C1)C1=CC2=C(C(CO2)C(=O)OC)C=C1 | C11H10N4O3
reactant | LiOH.H2O | 67.5 mmol, 2.84 g | O[Li].O
solvent | MeOH THF H2O | 100 mL | CO.C1CCOC1.O
product | 6-(1H-tetrazol-1-yl)-2,3-dihydro-1-benzofuran-3-carboxylic acid | N1(N=NN=C1)C1=CC2=C(C(CO2)C(=O)O)C=C1 | C10H8N4O3
